US08404859B2
Preparation of 4,4-Diethoxy-1-phenyl-but-2-yn-1-ol
A mixture of 3,3-Diethoxy-propyne (4.55 g, 35.5 mmol) in THF (90 mL) was cooled to −78 C under N2. A solution of n-BuLi (2.0M in cyclohexane, 24 mL, 46 mmol) was added. After 30 min., Benzaldehyde (4.90 g, 46 mmol) was added. After 15 h, the reaction was quenched by dilution with 1N HCl, warmed to room temperature and extracted into EtOAc. The organic layer was washed with brine, dried over sodium sulfate, filtered and evaporated to give product, 9.46 g (88%).

reactant | 3,3-Diethoxy-propyne | 35.5 mmol, 4.55 g | C(C)OC(C#C)OCC | C7H12O2
reactant | n-BuLi | 46 mmol, 2.0M, 24 mL | [Li]CCCC
reactant | Benzaldehyde | 46 mmol, 4.90 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | THF | 90 mL | C1CCOC1 | C4H8O
product | 4,4-Diethoxy-1-phenyl-but-2-yn-1-ol | C(C)OC(C#CC(O)C1=CC=CC=C1)OCC | C14H18O3
